US05672597
N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2-[2-(benzoylamino)ethylthio]acetamide
There was dissolved 0.97 g (0.008 mol) of benzoic acid in 60 ml of dichloromethane and added 1.22 g (0.008 mol) of HOBt and 1.65 g (0.0095 mol) of DCC under cooling with ice, and the mixture was stirred for 30 minutes under cooling with ice. Thereto was added 3.0 g (0.008 mol) of N-[4-[3-(piperidinomethyl) phenoxy]-cis-2-butenyl]-2-(2-aminoethylthio)acetamide and the mixture was stirred for 18 hours at room temperature. The precipitate was filtrated off, and the filtrate was washed with 5% aqueous solution of sodium hydroxide and with water and dried over Glauber's salt. Then the solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=5:1) to give 0.9 g of the titled compound as oily matter.

reactant | benzoic acid | 0.008 mol, 0.97 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | HOBt | 0.008 mol, 1.22 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 0.0095 mol, 1.65 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N-[4-[3-(piperidinomethyl) phenoxy]-cis-2-butenyl]-2-(2-aminoethylthio)acetamide | 0.008 mol, 3.0 g | N1(CCCCC1)CC=1C=C(OC\C=C/CNC(CSCCN)=O)C=CC1 | C20H31N3O2S
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2-[2-(benzoylamino)ethylthio]acetamide | 0.9 g | N1(CCCCC1)CC=1C=C(OC\C=C/CNC(CSCCNC(C2=CC=CC=C2)=O)=O)C=CC1 | C27H35N3O3S
